US07982071B2
Addition of acetonitrile to 3-(cyclooctylmethoxy)benzaldehyde gave 3-(3-(cyclooctylmethoxy)phenyl)-3-hydroxypropanenitrile as a yellow oil. Yield (0.90 g, 48%): 1H NMR (400 MHz, CDCl3) δ 7.25-7.31 (m, 1H), 6.91-6.95 (m, 2H), 6.84-6.89 (m, 1H), 5.01 (t, J=6.2 Hz, 1H), 3.72 (d, J=6.8 Hz, 2H), 2.74 (d, J=2.0 Hz, 2H), 1.97-2.04 (m, 1H), 1.33-1.79 (m, 14H).

reactant | 3-(cyclooctylmethoxy)benzaldehyde | C1(CCCCCCC1)COC=1C=C(C=O)C=CC1 | C16H22O2
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(3-(cyclooctylmethoxy)phenyl)-3-hydroxypropanenitrile | C1(CCCCCCC1)COC=1C=C(C=CC1)C(CC#N)O | C18H25NO2
